US04210590
In an operation carried out in a manner similar to that described in Example I but employing 22 grams of 2,3,4,5-tetrahydro-1H-[1,4]-diazepino[1,2-a]indole, milliliters of 1 M BH3.THF in tetrahydrofuran and milliliters of trifluoroacetic acid, a 75 percent yield of 2,3,4,5,11,11a-hexahydro-1H-[1,4]-diazepino[1,2-a]indole was obtained as determined by GLC on the isolated product.

reactant | 2,3,4,5-tetrahydro-1H-[1,4]-diazepino[1,2-a]indole | 22 grams | C1NCCCN2C1=CC=1C=CC=CC21 | C12H14N2
reactant | BH3.THF | 1 M | B.C1CCOC1
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,3,4,5,11,11a-hexahydro-1H-[1,4]-diazepino[1,2-a]indole | 75 percent yield | C1NCCCN2C1CC=1C=CC=CC21 | C12H16N2
